US07612114B2
6-{2-{Ethyl[4-(3-piperidin-1-ylpropoxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from N-ethyl-4-hydroxy-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (500 mg) and 1-(3-chloropropyl)piperidine hydrochloride (298 mg) according to an analogous synthetic method to Example 368, the title compound (410 mg) was obtained.

reactant | N-ethyl-4-hydroxy-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | 500 mg | C(C)N(C(C1=CC=C(C=C1)O)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H29NO4
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 298 mg | Cl.ClCCCN1CCCCC1
product | 6-{2-{Ethyl[4-(3-piperidin-1-ylpropoxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 410 mg | C(C)N(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCCN1CCCCC1 | C33H42N2O3
